US05885986
A solution of 13.7 g (0.0377 mol) of methyl (S)-3-hydroxy-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-3-ylcarbonylamino)-propionate in 270 ml of tetrahydrofuran was treated while gassing with argon with 9.87 g (0.0414 mol) of methoxycarbonylsulphamoyltriethylammonium hydroxide internal salt (Burgess reagent) according to the method described in Tetr. Letters 1992, 33, 907. The mixture was boiled at reflux for 2 hrs. and completely freed from the solvents. The residue was partitioned between water and dichloromethane, extracted, chromatographed over silica gel with ethyl acetate as the eluent and recrystallized from acetonitrile. There were obtained 2.94 g (22%) of methyl (S)-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-3-yl)-4,5-dihydro-oxazole-4-carboxylate as white crystals; m.p. 215°-217°. [α]D20 =+41.2° (CHCl3, c=1%). A further 3.25 g (25%) of yellowish crystals were recovered from the mother liquor.

reactant | methyl (S)-3-hydroxy-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-3-ylcarbonylamino)-propionate | 0.0377 mol, 13.7 g | OC[C@@H](C(=O)OC)NC(=O)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C15H16N4O5S
reactant | methoxycarbonylsulphamoyltriethylammonium hydroxide | 0.0414 mol, 9.87 g | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | tetrahydrofuran | 270 ml | O1CCCC1 | C4H8O
product | methyl (S)-2-(5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-3-yl)-4,5-dihydro-oxazole-4-carboxylate | 2.94 g, 22% | CN1CC=2N(C3=C(C1=O)SC=C3)C=NC2C=2OC[C@H](N2)C(=O)OC | C15H14N4O4S
